* PSpice Model Editor - Version 16.5.0
*$
.SUBCKT memristor_V Plus Minus PARAMS:
+ Ron=10 Roff=420 Rinit=20 D=3N uv=1.6E-12 p=10 Vt1=0.19V Vt2=-0.37V Ioff=1e-5 I0=1e-3
Gx 0 x value={(Ioff/(I(Emem)-I0)*uv*(stp(V(plus,minus)-Vt1))*Ron/D^2+I(Emem)*uv*stp(Vt2-V(plus,minus))*Ron/D^2)*f(V(x),p)}
Cx x 0 1 IC={(Roff-Rinit)/(Roff-Ron)}
Raux x 0 1T
Emem plus aux value={-I(Emem)*V(x)*(Roff-Ron)}
Roff aux minus {Roff}
Eflux flux 0 value={SDT(V(plus,minus))}
Echarge charge 0 value={SDT(I(Emem))}
.func f(x,p)={1-(2*x-1)^(2*p)}
*proposed window function
.ENDS memristor_V
*$
