* PSpice Model Editor - Version 23.1.0
*$
* PSpice Model Editor - Version 23.1.0
.SUBCKT memristor_V Plus Minus PARAMS:
+ Ron=10 Roff=420 Rinit=20 D=3N uv=1.6E-12 p=10 Vt1=0.19V Vt2=-0.37V Ioff=1e-5 I0=1e-3
Gx 0 x value={ Ioff/(I(Emem)-I0)*uv*stp(V(Plus,Minus)-Vt1)*Ron/D^2*f_inc(V(x),p) + I(Emem)*uv*stp(Vt2-V(Plus,Minus))*Ron/D^2*f_dec(V(x),p)}
Cx x 0 1 IC={(Roff-Rinit)/(Roff-Ron)}
Raux x 0 1T
Emem Plus aux value={-I(Emem)*V(x)*(Roff-Ron)}
Roff aux Minus {Roff}
Eflux flux 0 value={SDT(V(Plus,Minus))}
Echarge charge 0 value={SDT(I(Emem))}
.func f_inc(x,p)={1-x^(2*p)*stp(x)+stp(-x)}
.func f_dec(x,p)={1-(1-x)^(2*p)*stp(-x+1)+stp(x-1)}
.ENDS memristor_V
*$
*-------------------------------------------------------------------------
*
*
*  1 INPUT INVERTER
*
.SUBCKT INV  I0  O
+	optional: DPWR=$G_DPWR DGND=$G_DGND
*
U1 INV
+  DPWR  DGND
+  I0  O
+  D_PLD_GATE IO_PLD
*
.ENDS
*$
